US04057565
To a mixture of 0.046 g of zirconium tetrachloride and 0.113 g of 2-dimethylaminobenzyllithium was added 3 ml of toluene, and the mixture was warmed to about 50° C with stirring. Reaction slowly took place to give an orange liquid. When there was no further appreciable change in the color of the liquid, the mixture was cooled and filtered to give an orange solution of tetrakis(2-dimethylaminobenzyl)zirconium.

reactant | zirconium tetrachloride | 0.046 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | 2-dimethylaminobenzyllithium | 0.113 g | CN(C1=C(C[Li])C=CC=C1)C
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | tetrakis(2-dimethylaminobenzyl)zirconium | CN(C1=C(C[Zr](CC2=C(C=CC=C2)N(C)C)(CC2=C(C=CC=C2)N(C)C)CC2=C(C=CC=C2)N(C)C)C=CC=C1)C | InChI=1S/4C9H12N.Zr/c4*1-8-6-4-5-7-9(8)10(2)3;/h4*4-7H,1H2,2-3H3;
